US08283364B2
1,1-Dimethylethyl 4-[(2-nitro-3-fluoro-5-methoxyphenyl)amino]-piperidinecarboxylate (D12)
4-Nitro-3,5-difluoroanisole (D11) (370 mg, 2 mmol) was dissolved in dry dimethylformamide (3 ml) and diisopropylethylamine (0.4 ml), and 1,1-dimethylethyl 4-amino-1-piperidinecarboxylate (400 mg, 2 mmol) were added at room temperature. The mixture was stirred at room temperature for 18 h, then cooled to room temperature and water and ethyl acetate added. The organic layer was dried over MgSO4, filtered and evaporated, and the residue crystallised from diethyl ether to afford the title compound, 380 mg. M−−H=368.

reactant | 4-Nitro-3,5-difluoroanisole | 2 mmol, 370 mg | [N+](=O)([O-])C1=C(C=C(C=C1F)OC)F | C7H5F2NO3
reactant | 1,1-dimethylethyl 4-amino-1-piperidinecarboxylate | 2 mmol, 400 mg | NC1CCN(CC1)C(=O)OC(C)(C)C | C10H20N2O2
reactant | water | O | H2O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
solvent | diisopropylethylamine | 0.4 ml | C(C)(C)N(CC)C(C)C | C8H19N
product | 1,1-Dimethylethyl 4-[(2-nitro-3-fluoro-5-methoxyphenyl)amino]-piperidinecarboxylate | [N+](=O)([O-])C1=C(C=C(C=C1F)OC)NC1CCN(CC1)C(=O)OC(C)(C)C | C17H24FN3O5
